US06063782
Methyl 1-(2-chloro-2-propenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as pale yellow crystals in 77.5% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 2,3-dichloro-1-propene.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
product | Methyl 1-(2-chloro-2-propenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | ClC(CN1C(=C(C(=C1C)C)C=O)C(=O)OC)=C | C12H14ClNO3
